US06455671B1
(a) 3-Phenyl-D-lactyl-proline (p-cyanobenzyl)amide
5.5 g (20.4 mmol) of o-tetrahydropyranyl-3-phenyl-D-lactic acid (WO 93/18060) were dissolved in 30 ml of DMF and, successively, 5.4 g (20.4 mmol), N-(p-cyanobenzyl)prolin-amide, 3.3 g (20.4 nmol) of N-hydroxybenzotriazole, 3.0 g DIPEA and 4.33 g (20.6 mmol) of dicyclohexylcarbodiimide were added. The mixture was left to stir at room temperature for 48 h. The precipitated urea was filtered off with suction and then the solvent was substantially removed under reduced pressure, and the residue was mixed with 50 ml of water and extracted with ethyl acetate. After washing with water, NaHCO3 solution and drying over Na2SO4, the ethyl acetate was distilled off, the remaining oily residue was dissolved in methanol, and the pH was. adjusted to 2 with p-toluenesulfonic acid. This solution was left to stand at room temperature for 6 h. The methanol was then distilled off, and the residue was taken up in ethyl acetate and washed with water, 5% strength citric acid and NaBCO3 solutions. The residue obtained after drying over Na2SO4 and removal of the solvent by distillation was purified by column chromatography (eluent: methylene chloride/acetone/methanol, 45/5/2). 2.5 g of white crystals were obtained, and these melted at 108° C.-110° C. after crystallization from an ether/hexane mixture.

reactant | o-tetrahydropyranyl-3-phenyl-D-lactic acid | 20.4 mmol, 5.5 g | O1C(CCCC1)C1=C(C=CC=C1)C[C@H](C(=O)O)O | C14H18O4
reactant | N-(p-cyanobenzyl)prolin-amide | C(#N)C1=CC=C(CNC([C@H]2NCCC2)=O)C=C1 | C13H15N3O
reactant | N-hydroxybenzotriazole | 20.4 nmol, 3.3 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DIPEA | 3.0 g | CCN(C(C)C)C(C)C | C8H19N
reactant | dicyclohexylcarbodiimide | 20.6 mmol, 4.33 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-Phenyl-D-lactyl-proline (p-cyanobenzyl)amide | 2.5 g | C(#N)C1=CC=C(CNC([C@H]2N(CCC2)C([C@H](O)CC2=CC=CC=C2)=O)=O)C=C1 | C22H23N3O3
